US05371077
A solution of 3β-acetoxy-25,26,26,26,27,27,27-heptafluoro-5α-cholest-8(14)-en-15-one (59 mg) in methanol (4 ml) was stirred with potassium carbonate (30 mg) for 5 h at room temperature. Ethyl acetate (10 ml) and water (20 ml) were added and the resulting mixture was extracted twice with ethyl acetate (25 ml portions). The organic extract was washed with water (10 ml), dried over anhydrous sodium sulfate, and evaporated to dryness. The resulting residue (51 mg) was subjected to chromatography on a silica gel column (3.5 cm×0.8 cm). Using 5% ethyl acetate in hexane (100 ml) and 10% ethyl acetate in hexane (250 ml) as the eluting solvents, fractions 50 ml in volume were collected. The contents of fractions 4-7 were pooled to give, after evaporation of the solvent, 49 mg of material which was then recrystallized from hexane to give 3β-hydroxy-25,26,26,26,27,27,27-heptafluoro-5α-cholest-8(14)-en- 15-one (38 mg; 69% yield); MP 177°-179° C. HPLC analyses at 259 nm and 210 nm on a Spherisorb ODS-II column (solvent, 7% methanol in water) showed a single component (>99.8% purity) with a retention time of 6.92 min. GC-MS analysis of the 3β-trimethylsilyl derivative showed a single component. The structure was confirmed by I.R., N.M.R., and M.S. analyses.

reactant | 3β-acetoxy-25,26,26,26,27,27,27-heptafluoro-5α-cholest-8(14)-en-15-one | 59 mg | C(C)(=O)O[C@@H]1C[C@@H]2CCC3=C4C(C[C@H]([C@@H](CCCC(C(F)(F)F)(C(F)(F)F)F)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)=O | C29H39F7O3
reactant | potassium carbonate | 30 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
reactant | water | 20 ml | O | H2O
solvent | methanol | 4 ml | CO | CH4O
product | 3β-hydroxy-25,26,26,26,27,27,27-heptafluoro-5α-cholest-8(14)-en- 15-one | 38 mg, 69% yield | O[C@@H]1C[C@@H]2CCC3=C4C(C[C@H]([C@@H](CCCC(C(F)(F)F)(C(F)(F)F)F)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)=O | C27H37F7O2
